US05246927
Reaction of 2-tert-butyl-6-isothiocyanato-5-(4-methyl-piperazin-1-yl)benzothiazole described in Example 2 with piperidine under conditions described in Example 1 gives 2-tert-butyl-6-[(piperidin-1-yl)thiocarbonylamino]-5-(4-methyl-piperazin-1-yl)benzothiazole, melting at 202°-206°.

reactant | 2-tert-butyl-6-isothiocyanato-5-(4-methyl-piperazin-1-yl)benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCN(CC2)C | C17H22N4S2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-tert-butyl-6-[(piperidin-1-yl)thiocarbonylamino]-5-(4-methyl-piperazin-1-yl)benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)N2CCCCC2)N2CCN(CC2)C | C22H33N5S2
